* Author: Adriaan van Wijk
* Version: 1.3
* Last modification date: 13 April 2022
* Last modification by: Adriaan van Wijk

* Copyright (c) 2022 Adriaan van Wijk, Stellenbosch University

* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:

* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.

* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.

*For questions about the library, contact Adriaan van Wijk, 21786275@sun.ac.za

*********************************
* Additional Notes

* The original cell was designed for a skew tolerance of 10ps. 
* The optimized version tends to decrease ra which results in a bigger skew tolerance.
* The skew tolerance on this optimzied circuit is in the range of 10-14 ps.



*$Ports    A B q
.subckt DSFQ_AND A B q

.param  b1  	=	 	 3.23682804e-01
.param  b2  	=	 	 5.95629005e-01
.param 	b3 		= 		 b1
.param 	b4 		= 		 b2
.param  b5  	=	 	 6.21776921e-01
.param  i1  	=	 	 3.00270413e-05
.param  l1  	=	 	 5.22896652e-12
.param 	l2 		= 		 l1
.param  l3  	=	 	 1.73951938e-12
.param  lp1  	=	 	 9.19415844e-14
.param  lrb1  	=	 	 4.30836486e-12
.param  lrb2  	=	 	 7.59006914e-12
.param  lrb3  	=	 	 5.78336737e-12
.param  lrb4  	=	 	 1.55573615e-12
.param  lrb5  	=	 	 1.06776433e-12
.param  ra  	=	 	 2.41454521e+00
.param  rb1  	=	 	 3.27679568e+00
.param  rb2  	=	 	 4.66908026e+00
.param 	rb3 	= 		 rb1
.param 	rb4 	= 		 rb2
.param  rb5  	=	 	 7.26286283e+00

b1   	4   	5   	 jjmit area=b1
b2   	6   	7   	 jjmit area=b2
b3   	4   	8   	 jjmit area=b3
b4   	6   	4   	 jjmit area=b4
b5   	4   	9   	 jjmit area=b5
i1   	0   	4   	pwl(0   	0   	5p   	i1)
l1   	a   	5   	 l1
l2   	b   	7   	 l1
l3   	4   	q   	 l3
lp1   	9   	0   	 lp1
lrb1   	10   	4   	 lrb1
lrb2   	11   	6   	 lrb2
lrb3   	12   	4   	 lrb1
lrb4   	13   	6   	 lrb2
lrb5   	14   	0   	 lrb5
r1   	8   	5   	 rA
r2   	4   	7   	 rA
r3   	5   	4   	 rA
r4   	7   	6   	 rA
rb1   	5   	10   	 rb1
rb2   	7   	11   	 rb2
rb3   	8   	12   	 rb3
rb4   	4   	13   	 rb4
rb5   	4   	14   	 rb5

.ends